**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Mono-color Side View Waterclear 
* Matchcode:              WL-SMSW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-22
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0603_155060AS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060BS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060GS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=2.4395E-9
+ N=5
+ RS=3.2882
+ IKF=2.7030E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060RS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060SS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060VS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060YS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060AS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060BS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060GS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060RS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060SS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060VS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=160.51E-12
+ N=4.1193
+ RS=.54321
+ IKF=994.36
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 0603_155060YS75300 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 1204_155124BS73200  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=1.0376E-12
+ N=4.7083
+ RS=.91415
+ IKF=906.08E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124GS73200  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=200.45E-9
+ N=4.5512
+ RS=1.6413
+ IKF=4.3408E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124RS73200 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=10.000E-21
+ N=1.6578
+ RS=1.0000E-6
+ IKF=223.21E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 1204_155124VS73200  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=10.010E-21
+ N=1.8501
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124YS73200  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=217.62E-18
+ N=2.4168
+ RS=1.0000E-6
+ IKF=.19675
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124BS73200A  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=1.0376E-12
+ N=4.7083
+ RS=.91415
+ IKF=906.08E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124GS73200A  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=1.3826E-3
+ N=4.6467
+ RS=1.6746
+ IKF=630.13E-15
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124RS73200A 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=10.000E-21
+ N=1.6578
+ RS=1.0000E-6
+ IKF=223.21E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 1204_155124VS73200A  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=10.010E-21
+ N=1.8501
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1204_155124YS73200A  1  2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=217.62E-18
+ N=2.4168
+ RS=1.0000E-6
+ IKF=.19675
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 3014_155301BS73100 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=695.94E-6
+ N=5
+ RS=2.4677
+ IKF=16.109E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301GS73100 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=2.0883E-6
+ N=4.8511
+ RS=2.2175
+ IKF=4.3256E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301RS73100 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301VS73100 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
.subckt 3014_155301YS73100 1 2
D1 1 2 SMSW
.MODEL SMSW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
********
































